US04886813
Preparation of N-[(R)-1-ethoxycarbonyl-2-propylthioethyl]-alanine t-butyl ester (α- and β-isomers)
In 40 ml of HMPA were dissolved 7.9 g of S-propyl-L-cysteine ethyl ester and 12.4 g of 2-bromopropionic acid t-butyl ester. To the solution was added 8.3 ml of triethylamine, and the mixture was stirred at room temperature for 40 hours. The reaction mixture was poured into ice water, followed by extraction with ethyl acetate. The extract was sufficiently washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (a 1:3 mixture of ether and n-hexane as an eluent), producing the α-isomer of the title compound as a colorless oil from the first eluate. Yield 4.4 g

reactant | S-propyl-L-cysteine ethyl ester | 7.9 g | C(C)OC([C@@H](N)CSCCC)=O | C8H17NO2S
reactant | 2-bromopropionic acid t-butyl ester | 12.4 g | C(C)(C)(C)OC(C(C)Br)=O | C7H13BrO2
reactant | triethylamine | 8.3 ml | C(C)N(CC)CC | C6H15N
solvent | HMPA | 40 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | N-[(R)-1-ethoxycarbonyl-2-propylthioethyl]-alanine t-butyl ester | C(C)(C)(C)OC([C@@H](N[C@@H](CSCCC)C(=O)OCC)C)=O | C15H29NO4S
